US07842701B2
3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)benzoic acid
A mixture of methyl 3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)benzoate (80 mg), an 1N aqueous sodium hydroxide solution (0.5 ml), methanol (5 ml), tetrahydrofuran (5 ml) and water (2.5 ml) was stirred at 50° C. for 1 hour. The reaction mixture was neutralized with 1N hydrochloric acid. The precipitated solid was collected by filtration, washed with water, and dried to obtain the target compound (63 mg).

reactant | methyl 3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)benzoate | 80 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C=2C=C(C(=O)OC)C=CC2 | C18H14N4O3
reactant | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 2.5 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)benzoic acid | 63 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C=2C=C(C(=O)O)C=CC2 | C17H12N4O3
